US04304728
Ethyl 6-(2-methoxyphenyl)-4-oxo-4H-pyran-2-carboxylate
A solution of ethyl 5,6-dibromo-2,4-dioxo-6-(2-methoxyphenyl)hexanoate (9.5 g) and potassium acetate (10.0 g) in absolute ethanol (100 ml) was heated under reflux for 5 hours and then allowed to stand at room temperature overnight. The mixture was evaporated and the resulting brown residue dissolved in water (150 ml) and diethyl ether (150 ml). The ethereal solution was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulphate, filtered and evaporated to give a tan coloured solid. Recrystallisation from ethanol-water yielded the title product as pale yellow needles (mp 78°-81° C.).

reactant | ethyl 5,6-dibromo-2,4-dioxo-6-(2-methoxyphenyl)hexanoate | 9.5 g | BrC(C(CC(C(=O)OCC)=O)=O)C(C1=C(C=CC=C1)OC)Br | C15H16Br2O5
reactant | potassium acetate | 10.0 g | C(C)(=O)[O-].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 6-(2-methoxyphenyl)-4-oxo-4H-pyran-2-carboxylate | COC1=C(C=CC=C1)C1=CC(C=C(O1)C(=O)OCC)=O | C15H14O5
